US05886143
A solution of 2.831 g (8 mmole) 3-iodomethyl-4-iodobutyric acid in 80 mL ethanol is saturated with HCl gas at 0° C. After stirring the solution at room temperature for two days, the solvent is removed under vacuum, and the residue is dissolved in dichloromethane. The dichloromethane layer is washed with 10% aqueous sodium bicarbonate (3×100 mL), water (1×100 mL) and brine. The separated dichloromethane layer is dried over with magnesium sulfate, filtered and evaporated to give ethyl-3-iodomethyl-4-iodobutyrate.

reactant | 3-iodomethyl-4-iodobutyric acid | 8 mmole, 2.831 g | ICC(CC(=O)O)CI | C5H8I2O2
reactant | HCl | Cl | ClH
reactant | ethanol | 80 mL | C(C)O | C2H6O
product | ethyl-3-iodomethyl-4-iodobutyrate | C(C)OC(CC(CI)CI)=O | C7H12I2O2
